data/mechanism_extracts/ChemSci/10.1039_d2sc07045f.json
{"doi": "10.1039_d2sc07045f", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrooxidative radical cascade annulation of 1,6-enynes with sulfinates to access 7- and 9-membered sulfonamide-containing bridged/fused heterocycles via sulfonyl radical addition.", "mechanism_family": ["radical_anodic", "direct_SET"], "electrochemical_role": "Anodic oxidation of p-toluenesulfinate (TolSO2Na, 1a) generates the sulfonyl radical (Ts·); a subsequent anodic SET oxidation of the cyclized C-radical intermediate (C or F) followed by deprotonation furnishes the aromatic product.", "key_intermediates": [{"name": "tosyl (sulfonyl) radical Ts·", "smiles": "[O]S(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "vinyl radical A from Ts· addition to alkyne of 1,6-enyne (R=Ph)", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl/cyclized radical B (after 6-exo-trig)", "smiles": null, "role": "transient"}, {"name": "aryl/spiro radical C (after intramolecular cyclization to bridged system)", "smiles": null, "role": "transient"}, {"name": "alkyl radical D from Ts· addition to alkene of 2 (R=H)", "smiles": null, "role": "transient"}, {"name": "vinyl radical E (after 5-exo-dig cyclization)", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl radical F (after intramolecular aromatic cyclization)", "smiles": null, "role": "transient"}, {"name": "TEMPO-like cyclopropylvinyl radical trap adduct 9 (Ts–CH2–C(adduct))", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes sulfinate 1a to sulfonyl radical Ts·, which chemoselectively adds to the alkyne (Path B, R=Ph) or alkene (Path A, R=H) of the 1,6-enyne; the resulting C-radical undergoes intramolecular radical cyclization (6-exo-trig or 5-exo-dig) and then aromatic cyclization, after which a second anodic SET oxidation and deprotonation yield the bridged (4a) or fused (3aa) sulfonamide product.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-cyclopropylvinyl)benzene", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_trap", "observation": "Trapped Ts· to give adduct 9 in 60% yield; benzyl radical formed was oxidized without cyclopropyl ring-opening, supporting Ts· generation and fast SET oxidation of the benzyl radical."}, {"name": "Preformed medium-sized ring substrate 5", "smiles": null, "purpose": "intermediate_trap", "observation": "Under standard conditions with 1a, no 4k was formed (0%), indicating that Ts· addition does not occur after formation of the medium-sized ring; Ts· must add before cyclization."}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two divergent pathways are proposed depending on alkyne substitution: Path B (R=Ph, internal alkyne) — Ts· adds to the alkyne, 6-exo-trig cyclization, then intramolecular cyclization to give bridged tricyclic sulfonamide 4a (6-7-5 system not formed here, instead bridged); Path A (R=H, terminal alkyne) — Ts· adds chemoselectively to the alkene, 5-exo-dig cyclization gives vinyl radical E, intramolecular aromatic cyclization to F, SET oxidation/deprotonation affords fused 6-7-5 product 3aa. Selectivity is rationalized by different activation barriers for Ts· addition to C=C vs C≡C depending on alkyne substitution. CV was referenced (ref 19) to support sulfinate oxidation potential."}
